US08084470B2
264 mg (1.62 mmol) of CDI were added to a solution of 500 mg (1.55 mmol) of 2-(2-(phenylsulfonyl)ethylthio)nicotinic acid in DCM (12 ml), and the mixture was stirred for 1 h at RT. A solution of 200 μl (1.55 mmol) of cyclohexanemethylamine in DCM (12 ml) was then added, and stirring was continued for a further 16 h at RT. The reaction solution was then washed in each case three times with sat. aq. ammonium chloride solution and saturated aqueous NaHCO3 solution. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. 624 mg (1.49 mmol, 96%) of N-(cyclohexylmethyl)-2-(2-(phenylsulfonyl)ethylthio)nicotinamide were obtained as residue.

reactant | CDI | 1.62 mmol, 264 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(2-(phenylsulfonyl)ethylthio)nicotinic acid | 1.55 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)CCSC1=C(C(=O)O)C=CC=N1 | C14H13NO4S2
reactant | cyclohexanemethylamine | 1.55 mmol, 200 μl | C1(CCCCC1)CN | C7H15N
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | N-(cyclohexylmethyl)-2-(2-(phenylsulfonyl)ethylthio)nicotinamide | 1.49 mmol, 624 mg, 96% | C1(CCCCC1)CNC(C1=C(N=CC=C1)SCCS(=O)(=O)C1=CC=CC=C1)=O | C21H26N2O3S2
